US09388440B2
10 gms of 3-[5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoyl]-4-phenyl-oxazolidin-2-one was taken in dichloromethane, to this 3.6 gms of sodium methoxide was added followed by 3.2 ml of dimethylcarbonate, and 500 ml of dichloromethane. Reaction mass was stirred for about 5-7 hours. To the reaction mass 0.1 ml of hydrochloric acid was added. Separated the layers and extract the aqueous layer with 25 ml of methylene dichloride. The organic layer was washed with water and dried over sodium sulphate. Distilled the solvent completely under reduced pressure at 50-55° C. and 85 ml of methanol was added. Stirred the reaction mass for about 1-2 hours, filtered and washed with methanol and dried at 50-55° C. to get 5 gms of 5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoic acid methyl ester.

reactant | 3-[5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoyl]-4-phenyl-oxazolidin-2-one | 10 gms | C(C1=CC=CC=C1)OC(CCC(C(=O)N1C(OCC1C1=CC=CC=C1)=O)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C47H42F2N2O5
reactant | sodium methoxide | 3.6 gms | C[O-].[Na+]
reactant | dimethylcarbonate | 3.2 ml | COC(OC)=O | C3H6O3
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 5-Benzyloxy-2-[(4-benzyloxy-phenyl)-(4-fluoro-phenylamino)-methyl]-5-(4-fluoro-phenyl)-pentanoic acid methyl ester | 5 gms | COC(C(CCC(C1=CC=C(C=C1)F)OCC1=CC=CC=C1)C(NC1=CC=C(C=C1)F)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C39H37F2NO4
